US05721347
A solution of 3.67 g. (0.015 mole) of 5-(ρ-toluoyl)-1-methyl-pyrrole-2-acetonitrile, 24 ml. of 1N sodium hydroxide, and 50 ml. of 95% ethanol is stirred and refluxed for twenty-four hours. The resulting solution is poured into ice acidified with dilute hydrochloric acid. A white solid precipitates which is extracted into ether. The ether phase is washed with a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent is evaporated and a white solid, 5-ρ-toluoyl)-1-methylpyrrole-2-acetic acid, is obtained which is recrystallized twice from isopropanol, M.P., 155°-157° C.

reactant | 5-(ρ-toluoyl)-1-methyl-pyrrole-2-acetonitrile | 0.015 mole | C1(=CC=C(C=C1)C(=O)C1=CC=C(N1C)CC#N)C | C15H14N2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1-methylpyrrole-2-acetic acid | CN1C(=CC=C1)CC(=O)O | C7H9NO2
